US06255494B1
Preparation of 1-[3-(chlorocarbonyl)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole
Under a nitrogen atmosphere at room temperature 1-[3-(carboxy)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole (1.2 g, 3.2 mmol) was added in one portion to oxalyl chloride (5 ml) in methylene chloride (150 ml). After the material solubilized, one drop of N,N-dimethylformamide was added to initiate the reaction. Bubbling of the solution began and was visible for approximately fifteen minutes. The reaction mixture was stirred at room temperature for two hours. The reaction mixture was then concentrated under reduced pressure, reuslting in the formation of a white solid. The solid was triturated in 100 ml of hexanes, filtered and dried in a vacuum oven at 50° C. for one hours to yield the title product (1.3 g, 91%) as a white solid.

reactant | 1-[3-(carboxy)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 3.2 mmol, 1.2 g | C(=O)(O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)C | C20H21ClN2O3
reactant | oxalyl chloride | 5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 1-[3-(chlorocarbonyl)butyl]-2-[(4-chlorophenoxy)methyl]-4-methylbenzimidazole | 1.3 g, 91% | ClC(=O)C(CCN1C(=NC2=C1C=CC=C2C)COC2=CC=C(C=C2)Cl)C | C20H20Cl2N2O2
